US07846956B2
8.9 g of 4,4,5,5,6,6,6-heptafluoro-2-iodo-2-hexene-1-ol was dissolved in 90 ml of ethanol, and 40 ml of water, 4.17 g of hydroxylamine hydrochloride and 20.70 g of potassium carbonate were then added. The mixture was stirred and heated under reflux for 20 hours. The reaction mixture was concentrated under reduced pressure. After water was added, the residue was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, filtered and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 2.78 g of (5-pentafluoroethyl-isoxazol-3-yl)methanol.

reactant | 4,4,5,5,6,6,6-heptafluoro-2-iodo-2-hexene-1-ol | 8.9 g | FC(C=C(CO)I)(C(C(F)(F)F)(F)F)F | C6H4F7IO
reactant | water | 40 ml | O | H2O
reactant | hydroxylamine hydrochloride | 4.17 g | Cl.NO
reactant | potassium carbonate | 20.70 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 90 ml | C(C)O | C2H6O
product | (5-pentafluoroethyl-isoxazol-3-yl)methanol | 2.78 g | FC(C(F)(F)F)(C1=CC(=NO1)CO)F | C6H4F5NO2
